US05364937
340 g (2.52 mol) of sulfuryl chloride are introduced into 1.5 l of acetonitrile, and 260 g (4.0 mol) of sodium cyanate are added in portions within the space of 20 min while stirring vigorously (20° C.). The mixture is stirred for a further 15 min and then 222 g (2.0 mol) of N-methylmethanesulfonamide are added dropwise at 25° C., the temperature is raised slowly and the mixture is heated to reflux for 200 min while stirring vigorously. Subsequently, the excess sulfuryl chloride is distilled off with the solvent under 100 mbar up to an internal temperature of 50° C. After releasing the pressure under nitrogen, 1.5 l of acetonitrile (optionally also toluene etc.) are added and 155 g (1.0 mol) of 2-amino-4,6-dimethoxy-pyrimidine are introduced at 0° C. After 75 min, 1.0 l of water is added and the precipitate is separated off and washed. 304 g of 1-[(N-methylsulfonyl-N-methyl-amino)-sulfonyl]-3-(4,6-dimethoxy-2-pyrimidyl)-urea are obtained with a melting point of 176° to 178° C. The product is in accordance with a comparison sample and, according to analysis by high pressure liquid chromatography (HPLC), has a purity of 96%; yield: 77% of theory.

reactant | sulfuryl chloride | 2.52 mol, 340 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium cyanate | 4.0 mol, 260 g | [O-]C#N.[Na+]
reactant | N-methylmethanesulfonamide | 2.0 mol, 222 g | CNS(=O)(=O)C | C2H7NO2S
reactant | 2-amino-4,6-dimethoxy-pyrimidine | 1.0 mol, 155 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
solvent | water | 1.0 l | O | H2O
solvent | acetonitrile | 1.5 l | C(C)#N | C2H3N
product | 1-[(N-methylsulfonyl-N-methyl-amino)-sulfonyl]-3-(4,6-dimethoxy-2-pyrimidyl)-urea | 304 g, yield: 77% | CS(=O)(=O)N(C)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C9H15N5O7S2
